US08629137B2
6-(6-chloro-pyrimidine-4-carbonyl)-3-methyl-4-pyrazol-1-ylmethyl-3H-benzoxazol-2-one
Under a nitrogen atmosphere 0.15 g (0.49 mmol) 6-(6-chloropyrimidine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one, 95 mg (0.53 mmol) N-bromosuccinimide and 5.0 mg (30 mmol) 2,2′-azobis-isobutyronitrile (AIBN) in 15 mL carbon tetrachloride were combined and refluxed for 4 h. The precipitate formed was filtered off and the filtrate was combined with 20 μL isopropanol. After brief stirring 36 mg (0.53 mmol) pyrazole and 0.17 mL (0.99 mmol) DIPEA were added and the mixture was refluxed for 6 h. Then the reaction mixture was filtered through silica gel and washed with DCM/EtOAc (1/1). The filtrate was evaporated down i. vac. and the residue was reacted further as the crude product.

reactant | 6-(6-chloropyrimidine-4-carbonyl)-3,4-dimethyl-3H-benzoxazol-2-one | 0.49 mmol, 0.15 g | ClC1=CC(=NC=N1)C(=O)C1=CC2=C(N(C(O2)=O)C)C(=C1)C | C14H10ClN3O3
reactant | N-bromosuccinimide | 0.53 mmol, 95 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis-isobutyronitrile | 30 mmol, 5.0 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | pyrazole | 0.53 mmol, 36 mg | N1N=CC=C1 | C3H4N2
reactant | DIPEA | 0.99 mmol, 0.17 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | carbon tetrachloride | 15 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-(6-chloro-pyrimidine-4-carbonyl)-3-methyl-4-pyrazol-1-ylmethyl-3H-benzoxazol-2-one | ClC1=CC(=NC=N1)C(=O)C1=CC2=C(N(C(O2)=O)C)C(=C1)CN1N=CC=C1 | C17H12ClN5O3
